US07488823B2
Step C: [6-(5-Aminomethyl-furan-2-yl)-quinazolin-4-yl]-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-amine.
(5-(4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-quinazolin-6-yl)-furan-2-ylmethyl)-carbamic acid tert-butyl ester (0.0218 g, 0.0379 mmol) is dissolved in DCM (2 ml) and TFA (2 ml) is added dropwise. The reaction mixture is stirred at room temperature for 1 hour. The solvent is removed under a nitrogen stream and to the residue are added consecutively saturated aqueous potassium carbonate solution and DCM. The resulting mixture is extracted with DCM containing 5% THF, the combined organic extracts are dried (Na2SO4) and concentrated under reduced pressure to yield 17.6 mg (0.037 mmol, 98%) of the clean desired product.

reactant | (5-(4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-quinazolin-6-yl)-furan-2-ylmethyl)-carbamic acid tert-butyl ester | 0.0379 mmol, 0.0218 g | C(C)(C)(C)OC(NCC=1OC(=CC1)C=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl)=O | C31H28ClFN4O4
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | [6-(5-Aminomethyl-furan-2-yl)-quinazolin-4-yl]-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-amine | 0.037 mmol, 17.6 mg, 98% | NCC1=CC=C(O1)C=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl | C26H20ClFN4O2
